US05656626
8-Chloro-3-methoxy-4-(2-thienyl)-1H-benzo(b)azepine-2,5-dione
A solution of tri(2-furyl)phosphine (0.036 g) and tris(dibenzylideneacetonedipalladium (O) (0.26 g) in toluene (50 mL) was allowed to stir for 10 minutes. To this solution was added 8-chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H- benz[b]azepine (1.0 g), followed by 2-tributylstannylthiophene (1.24 g). The reaction was heated to reflux for 1.5 hours, was allowed to cool, and the toluene was evaporated. The residue was triturated with hot hexanes (75 mL). The title compound was afforded upon filtration (0.76 g); mp >240; NMR: 11.47 (bs, 1), 7.73 (dd, 1, J=5.1, 0.8), 7.60 (d, 1, J=7.9), 7.51 (dd, 1, J=4.0), 7.33 (d, 1, J=7.8), 7.31 (s, 1), 7.14 (dd, 1, J=5.1, 4.1), 3.88 (s, 3). Analysis for C15H10O3SClN: Calculated: C, 56.34; H, 3.15; N, 4.38; Found C, 55.96; H, 3.34; N, 4.33.

reactant | tri(2-furyl)phosphine | 0.036 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 8-chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H- benz[b]azepine | 1.0 g | ClC=1C=CC2=C(NC(C(=C(C2=O)I)OC)=O)C1 | C11H7ClINO3
reactant | 2-tributylstannylthiophene | 1.24 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-3-methoxy-4-(2-thienyl)-1H-benzo(b)azepine-2,5-dione | ClC=1C=CC2=C(NC(C(=C(C2=O)C=2SC=CC2)OC)=O)C1 | C15H10ClNO3S
